        Example 3 for interconnect simulation

* From neug1, Mosaic aluminum lines. 2um thick, 11um wide. Assuming
* 10um above the ground.
* Material: aluminum; resistivity (sigma) = 2.74uohm-cm = 2.74e-8 ohm-m 
* Dielectric: SiO2, dielectric constant (epsilon) =3.7 
* epsilon0 = 8.85e-12 MKS units
* mu0 = 4e-7*PI
* speed of light in free space = 1/sqrt(mu0*epsilon0) = 2.9986e8 MKS units
*
*  Line parameter calculations:
*  capacitance: parallel plate
*  C = epsilon*epsilon0 * A / l
*  C = 3.7*8.85e-12 * 11e-6 * 1(metre) / 10e-6 = 36.02e-12 F/m
*    + 30% = 46.8e-12 F/m = 0.468pF/cm
*
*  C_freespace = 46.8e-12/epsilon = 12.65e-12 F/m
*  speed of light in free space v0 = 2.9986e8 = 1/sqrt(L0*C0)
*  => L0 = 1/C0*v0^2
*  L0 = 1/(12.65e-12 * 8.9916e16) = 1/113.74e4 = 0.008792e-4 H/m
*    = 0.8792 uH/m = 8.792nH/cm
*  
*  R = rho * l / A = 2.74e-8 * 1 / (11e-6*2e-6) = 1245.45 ohms/m
*    = 12.45ohms/cm
*
*  transmission line parameters:
*  	nominal z0 = sqrt(L/C) = 137 ohms
*	td = sqrt(LC) = 64.14e-12 secs/cm = 0.064ns/cm
*
*


vcc vcc 0 5

v1 1 0 0v pulse(0 5 0.1ns 0.1ns 0.1ns 1ns 100ns)
rs 1 2 10
xdrv 1 2 vcc bjtdrvr
xrcv 3 4 vcc bjtdrvr
*xrcv 3 4 vcc dioload
d1 3 vcc diod
d2 0 3 diod
cl 3 0 1pF
o1 2 0 3 0 lline
*x1 2 3 sixteencm
x1 2 3 xonecm

.model diod d
.model lline ltra rel=1.8 r=12.45 g=0 l=8.792e-9 c=0.468e-12 len=16 steplimit

.control
* 1cm
* 2cm
* 4cm
* 6cm
* 8cm
* 10cm
* 12cm
*tran 0.001ns 15ns 0 0.1ns
* 24cm
tran 0.001ns 10ns 0 0.1ns
* onecm10
*tran 0.001ns 10ns 0 0.01ns
rusage
set color0=white
set xbrushwidth=3
plot v(1) v(2) v(3)
.endc


* 1. define the subckt r10 to be one tenth of the resistance per cm.
* 2. define the subckt onecm to be one of onecm10 (modelled using
* 10 segments), onecm8, onecm4, onecm2 and lump1. Then use
* the subckts onecm, fourcm, fivecm, tencm, twelvecm,
* twentyfourcm in the circuit. The line is modelled as rlc segments.
* 3. define the subckt xonecm to be one of xonecm10, xonecm8,
* xonecm4, xonecm2 and xlump1. Use the subckts xonecm,
* xfourcm, xfivecm, xtencm, xtwelvecm, xtwentyfourcm in the
* circuit. The line will be modelled as r-lossless lumps.

.subckt xonecm 1 2
*x1 1 2 xlump1
x1 1 2 xonecm4
.ends xonecm

.subckt onecm 1 2
*x1 1 2 lump1
x1 1 2 onecm4
.ends onecm

.subckt r10 1 2
r1 1 2 1.245
.ends r10

* ECL driver and diode receiver models - from Raytheon

.model qmodn npn(bf=100 rb=100 cje=0.09375pF cjc=0.28125pF is=1e-12
+pe=0.5 pc=0.5)

.model qmodpd npn(bf=100 rb=100 cje=0.08187pF cjc=0.2525pF is=1e-12
+pe=0.5 pc=0.5)

.model qmodpdmine npn(bf=100 rb=100  cje=0.08187pF cjc=0.05pF is=1e-12
+pe=0.5 pc=0.5)

.model dmod1 d(n=2.25 is=1.6399e-4 bv=10)

.model dmod2 d

.model dmod d(vj=0.3v)

.model diod1 d(tt=0.75ns vj=0.6 rs=909 bv=10)

.model diod2 d(tt=0.5ns vj=0.3 rs=100 bv=10)

* bjt driver - 19=input, 268=output, 20=vcc; wierd node numbers from 
* the Raytheon file

.subckt bjtdrvr 19 268 20
q1 22 18 13 qmodn
q2 18 16 13 qmodn
qd2 21 9 0 qmodn
q4 14 14 0 qmodn
q3 16 15 14 qmodpd
q5 8 13 17 qmodn
q6 25 12 0 qmodn
q7 6 17 0 qmodpd
qd1 26 10 0 qmodn
q8 7 11 10 qmodn
q10 268 17 0 qmodpdmine
*q10 268 17 0 qmodpd
q9 7 10 268 qmodn

d1 0 19 dmod1
d2 18 19 dmod2
d3 13 19 dmod
dq1 18 22 dmod
dq2 16 18 dmod
d502 9 21 dmod
dq3 15 16 dmod
d10 24 8 dmod
d4 15 6 dmod
dq6 12 25 dmod
dq7 17 6 dmod
dd1 17 10 dmod
d7 11 6 dmod
dd2 17 26 dmod
d9 23 6 dmod
dq8 11 7 dmod
d501 17 268 dmod
dq9 10 7 dmod
d14 20 27 dmod
d8 0 268 dmod

r1 18 20 6k
r2 22 20 2.2k
r4 0 13 7k
rd1 9 13 2k
rd2 21 13 3k
r3 16 20 10k
r5 15 20 15k
r9 0 17 4k
r6 24 20 750
r10 12 17 2k
r12 24 11 1.5k
r11 25 17 3k
r15 23 20 10k
r13 0 10 15k
r14 7 27 12

.ends bjtdrvr

* subckt dioload - diode load: input=28, output=4, vcc=5

.subckt dioload 28 4 5
c1 28 0 5pF
r503 0 4 5.55
r400 0 28 120k
r500 1 5 7.5k

d5 4 28 diod2
d1 1 28 diod1
d4 2 0 diod1
d3 3 2 diod1
d2 1 3 diod1
.ends dioload

* End ECL driver and Diode receiver models from Raytheon

*10 segments per cm
.subckt lump10 1 2
l1 1 3 0.0.8792nH
c1 2 0 0.0468pF
x1 3 2 r10
.ends lump10

*1 segment per cm
.subckt lump1 1 2
l1 1 3 8.792nH
c1 2 0 0.468pF
x1 3 4 r10
x2 4 5 r10
x3 5 6 r10
x4 6 7 r10
x5 7 8 r10
x6 8 9 r10
x7 9 10 r10
x8 10 11 r10
x9 11 12 r10
x10 12 2 r10
.ends lump1

*2 segments per cm
.subckt lump2 1 2
l1 1 3 4.396nH
c1 2 0 0.234pF
x1 3 4 r10
x2 4 5 r10
x3 5 6 r10
x4 6 7 r10
x5 7 2 r10
.ends lump2

*4 segments per cm
.subckt lump4 1 2
l1 1 3 2.198nH
c1 2 0 0.117pF
x1 3 4 r10
x2 4 5 r10
x3 5 2 r10
x4 5 2 r10
.ends lump4

*8 segments per cm
.subckt lump8 1 2
l1 1 3 1.099nH
c1 2 0 0.0585pF
x1 3 4 r10
x2 4 2 r10
x3 4 2 r10
x4 4 2 r10
x5 4 2 r10
.ends lump8

.subckt onecm10 1 2
x1 1 3 lump10
x2 3 4 lump10
x3 4 5 lump10
x4 5 6 lump10
x5 6 7 lump10
x6 7 8 lump10
x7 8 9 lump10
x8 9 10 lump10
x9 10 11 lump10
x10 11 2 lump10
.ends onecm10

.subckt onecm8 1 2
x1 1 3 lump8
x2 3 4 lump8
x3 4 5 lump8
x4 5 6 lump8
x5 6 7 lump8
x6 7 8 lump8
x7 8 9 lump8
x8 9 2 lump8
.ends onecm8

.subckt onecm4 1 2
x1 1 3 lump4
x2 3 4 lump4
x3 4 5 lump4
x4 5 2 lump4
.ends onecm4

.subckt onecm2 1 2
x1 1 3 lump2
x2 3 2 lump2
.ends onecm2

.subckt twocm 1 2
x1 1 3 onecm
x2 3 2 onecm
.ends twocm

.subckt threecm 1 2
x1 1 3 onecm
x2 3 4 onecm
x3 4 2 onecm
.ends threecm

.subckt fourcm 1 2
x1 1 3 onecm
x2 3 4 onecm
x3 4 5 onecm
x4 5 2 onecm
.ends fourcm

.subckt fivecm 1 2
x1 1 3 onecm
x2 3 4 onecm
x3 4 5 onecm
x4 5 6 onecm
x5 6 2 onecm
.ends fivecm

.subckt sixcm 1 2
x1 1 3 fivecm
x2 3 2 onecm
.ends sixcm

.subckt sevencm 1 2
x1 1 3 sixcm
x2 3 2 onecm
.ends sevencm

.subckt eightcm 1 2
x1 1 3 sevencm
x2 3 2 onecm
.ends eightcm

.subckt ninecm 1 2
x1 1 3 eightcm
x2 3 2 onecm
.ends ninecm

.subckt tencm 1 2
x1 1 3 fivecm
x2 3 2 fivecm
.ends tencm

.subckt elevencm 1 2
x1 1 3 tencm
x2 3 2 onecm
.ends elevencm

.subckt twelvecm 1 2
x1 1 3 tencm
x2 3 4 onecm
x3 4 2 onecm
.ends twelvecm

.subckt sixteencm 1 2
x1 1 3 eightcm
x2 3 2 eightcm
.ends sixteencm

.subckt twentyfourcm 1 2
x1 1 3 twelvecm
x2 3 2 twelvecm
.ends twentyfourcm


*modelling using R and lossless lines
* 10 segments per cm
.model lless10 ltra nocontrol rel=10 r=0 g=0 l=8.792e-9
+c=0.468e-12 len=0.1 steplimit quadinterp

* 8 segments per cm
.model lless8 ltra nocontrol rel=10 r=0 g=0 l=8.792e-9
+c=0.468e-12 len=0.125 steplimit quadinterp

* 4 segments per cm
.model lless4 ltra nocontrol rel=10 r=0 g=0 l=8.792e-9
+c=0.468e-12 len=0.25 steplimit quadinterp

* 2 segments per cm
.model lless2 ltra nocontrol rel=10 r=0 g=0 l=8.792e-9
+c=0.468e-12 len=0.5 steplimit quadinterp

* 1 segment per cm
.model lless1 ltra nocontrol rel=10 r=0 g=0 l=8.792e-9
+c=0.468e-12 len=1 steplimit quadinterp

*10 segments per cm
.subckt xlump10 1 2
o1 1 0 3 0 lless10
x1 3 2 r10
.ends xlump10

*1 segment per cm
.subckt xlump1 1 2
o1 1 0 3 0 lless1
x1 3 4 r10
x2 4 5 r10
x3 5 6 r10
x4 6 7 r10
x5 7 8 r10
x6 8 9 r10
x7 9 10 r10
x8 10 11 r10
x9 11 12 r10
x10 12 2 r10
.ends xlump1

*2 segments per cm
.subckt xlump2 1 2
o1 1 0 3 0 lless2
x1 3 4 r10
x2 4 5 r10
x3 5 6 r10
x4 6 7 r10
x5 7 2 r10
.ends xlump2

*4 segments per cm
.subckt xlump4 1 2
o1 1 0 3 0 lless4
x1 3 4 r10
x2 4 5 r10
x3 5 2 r10
x4 5 2 r10
.ends xlump4

*8 segments per cm
.subckt xlump8 1 2
o1 1 0 3 0 lless8
x1 3 4 r10
x2 4 2 r10
x3 4 2 r10
x4 4 2 r10
x5 4 2 r10
.ends xlump8

.subckt xonecm10 1 2
x1 1 3 xlump10
x2 3 4 xlump10
x3 4 5 xlump10
x4 5 6 xlump10
x5 6 7 xlump10
x6 7 8 xlump10
x7 8 9 xlump10
x8 9 10 xlump10
x9 10 11 xlump10
x10 11 2 xlump10
.ends xonecm10

.subckt xonecm8 1 2
x1 1 3 xlump8
x2 3 4 xlump8
x3 4 5 xlump8
x4 5 6 xlump8
x5 6 7 xlump8
x6 7 8 xlump8
x7 8 9 xlump8
x8 9 2 xlump8
.ends xonecm8

.subckt xonecm4 1 2
x1 1 3 xlump4
x2 3 4 xlump4
x3 4 5 xlump4
x4 5 2 xlump4
.ends xonecm4

.subckt xonecm2 1 2
x1 1 3 xlump2
x2 3 2 xlump2
.ends xonecm2


.subckt xtwocm 1 2
x1 1 3 xonecm
x2 3 2 xonecm
.ends xtwocm

.subckt xthreecm 1 2
x1 1 3 xonecm
x2 3 4 xonecm
x3 4 2 xonecm
.ends xthreecm

.subckt xfourcm 1 2
x1 1 3 xonecm
x2 3 4 xonecm
x3 4 5 xonecm
x4 5 2 xonecm
.ends xfourcm

.subckt xfivecm 1 2
x1 1 3 xonecm
x2 3 4 xonecm
x3 4 5 xonecm
x4 5 6 xonecm
x5 6 2 xonecm
.ends xfivecm

.subckt xsixcm 1 2
x1 1 3 xfivecm
x2 3 2 xonecm
.ends xsixcm

.subckt xsevencm 1 2
x1 1 3 xsixcm
x2 3 2 xonecm
.ends xsevencm

.subckt xeightcm 1 2
x1 1 3 xsevencm
x2 3 2 xonecm
.ends xeightcm

.subckt xninecm 1 2
x1 1 3 xeightcm
x2 3 2 xonecm
.ends xninecm

.subckt xtencm 1 2
x1 1 3 xfivecm
x2 3 2 xfivecm
.ends xtencm

.subckt xelevencm 1 2
x1 1 3 xtencm
x2 3 2 xonecm
.ends xelevencm

.subckt xtwelvecm 1 2
x1 1 3 xtencm
x2 3 4 xonecm
x3 4 2 xonecm
.ends xtwelvecm

.subckt xsixteencm 1 2
x1 1 3 xeightcm
x2 3 2 xeightcm
.ends xsixteencm

.subckt xtwentyfourcm 1 2
x1 1 3 xtwelvecm
x2 3 2 xtwelvecm
.ends xtwentyfourcm

.end
